US07906501B2
Step 7. 4-Bromo-5-n-propyl-1-[2′-(1H-tetrazol-5-yl)biphenyl-4-yl-methyl]-2-pyrrolaldehyde (compound 3)
This compound was prepared using the same procedure as in Example 1.10 g of 4-bromo-5-n-propyl-1-[2′-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]-2-pyrrolaldehyde (0.015 moles) and 19 mL of 4N HCl (0.075 moles) yield 3.5 g of product. Formula: C22H20BrN5O (m.w. 450.34). Yield 52%.

reactant | 4-bromo-5-n-propyl-1-[2′-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]-2-pyrrolaldehyde | 0.015 moles, 1.10 g | BrC=1C=C(N(C1CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C41H34BrN5O
reactant | HCl | 0.075 moles, 4N, 19 mL, yield 3.5 g | Cl | ClH
product | 4-Bromo-5-n-propyl-1-[2′-(1H-tetrazol-5-yl)biphenyl-4-yl-methyl]-2-pyrrolaldehyde | Yield 52% | BrC=1C=C(N(C1CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=O | C22H20BrN5O
